US07786155B2
Synthesis in analogy to Example 6 starting from 3-[2-(4-amino-phenyl)-2-oxo-ethyl]-2-methyl-5,5-diphenyl-3,5-dihydro-imidazol-4-one and 1-fluoro-2-isocyanato-benzene to yield 1-(2-fluoro-phenyl)-3-{4-[2-(2-methyl-5-oxo-4,4-diphenyl-4,5-dihydro-imidazol-1-yl)-acetyl]-phenyl}-urea. LC/MS at 254 nm; [M+H] 521; Rt 3.641 min.

reactant | 3-[2-(4-amino-phenyl)-2-oxo-ethyl]-2-methyl-5,5-diphenyl-3,5-dihydro-imidazol-4-one | NC1=CC=C(C=C1)C(CN1C(=NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C24H21N3O2
reactant | 1-fluoro-2-isocyanato-benzene | FC1=C(C=CC=C1)N=C=O | C7H4FNO
product | 1-(2-fluoro-phenyl)-3-{4-[2-(2-methyl-5-oxo-4,4-diphenyl-4,5-dihydro-imidazol-1-yl)-acetyl]-phenyl}-urea | FC1=C(C=CC=C1)NC(=O)NC1=CC=C(C=C1)C(CN1C(=NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C31H25FN4O3
